### PR TITLE
feat(MeasureTheory): A set is pi-measurable if it belongs to the set that generates the σ-algebra

### PR DESCRIPTION
**Pull request by gaetanserre**
Small result on measurability of pi-sets that uses the fact that the infimum of σ-algebras is a σ-algebra generated by the set of sets that are measurable by atleast one σ-algebra.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean [hunk 1]
```diff
@@ -653,6 +653,13 @@ protected theorem MeasurableSet.pi {s : Set δ} {t : ∀ i : δ, Set (X i)} (hs
   rw [pi_def]
   exact MeasurableSet.biInter hs fun i hi => measurable_pi_apply _ (ht i hi)
 
+@[measurability]
```
Comment (urkud) [inline Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:656]: Do we want `measurability` to try to apply this lemma? I'm not sure. In what context is it useful? The assumption `h` says that `A` is the preimage of a measurable set under evaluation at `a`. If we have it in this form, then we can use `measurable_pi_apply` to prove the goal.

Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:656]: > Do we want measurability to try to apply this lemma?

I'm not sure about the `measurability` attribute. If you think it should not be there, then I agree.


> In what context is it useful? 

Here is a simple example where it could be useful:
```lean
variable {δ : Type*} {X : δ → Type*} [∀ a, MeasurableSpace (X a)]

example [Zero δ] [Zero (X 0)] [MeasurableSingletonClass (X 0)] :
    MeasurableSet {u : (a : δ) → (X a) | u 0 = 0} :=
  measurableSet_pi_of_single ⟨{0}, measurableSet_singleton 0, rfl⟩
```

> If we have it in this form, then we can use measurable_pi_apply to prove the goal.

I couldn't do it, but I may have misunderstood something.

Comment (urkud) [reply Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:656]: This example can be done by `measurable_pi_apply 0 (measurableSet_singleton 0)`

Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:656]: Ok thank you!

Comment (gaetanserre) [reply Mathlib/MeasureTheory/MeasurableSpace/Constructions.lean:656]: Using your advice, I could prove my lemma with `measurable_pi_apply`:
```lean
theorem measurableSet_pi_of_single {A : Set (∀ a, X a)} {a : δ}
    (h : @MeasurableSet _ ((m a).comap (fun b => b a)) A) : MeasurableSet A := by
  obtain ⟨_, hs⟩ := h
  rw [← hs.2]
  exact measurable_pi_apply a hs.1
```
So I guess it is not useful. Thank you for your help.
